US06635657B1
B. N-(5-Chlorpyridin-2-yl)-2-[[4-(4-pyridinyl)piperazin-1-ylmethylcarbonyl]amino]benzamide
To a solution of 2-(bromoacetyl)amino-N-(5-chloropyridin-2-yl)benzamide (0.369 g, 1 mmol) in dichloromethane (10 ml) was added potassium carbonate (0.169 g, 1.22 mmol) and 1-(4-pyridyl)piperazine (0.171 mg, 1.05 mmol). The reaction was stirred overnight at room temperature. Water (2 mL) was added and the mixture was passed through a column of flux-calcined, high purity, inert diatomaceous earth packed into a polypropylene tube (article number CE 1103 from Varian) to remove water. The solvent was removed and the residue was purified by RPHPLC (CH2Cl2/5% 2 N ammonia in methanol) to give 0.08 g of pure title product.

reactant | 2-(bromoacetyl)amino-N-(5-chloropyridin-2-yl)benzamide | 1 mmol, 0.369 g | BrCC(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC=C1 | C14H11BrClN3O2
reactant | potassium carbonate | 1.22 mmol, 0.169 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-pyridyl)piperazine | 1.05 mmol, 0.171 mg | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | Water | 2 mL | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(5-Chlorpyridin-2-yl)-2-[[4-(4-pyridinyl)piperazin-1-ylmethylcarbonyl]amino]benzamide | 0.08 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)CN1CCN(CC1)C1=CC=NC=C1)=O | C23H23ClN6O2
